US06403610B1
A mixture of 0.22 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-acetate dihydrochloride in 5 cm3 of dioxane, to which had been added 0.683 cm3 of 5N aqueous sodium hydroxide solution, was stirred for 20 hours at a temperature in the region of 60° C. After evaporating under reduced pressure (5 kPa) at a temperature in the region of 40 ° C., the residue obtained was purified by chromatography at atmospheric pressure on a column of silica gel (particle size 20-45 μ; diameter 1 cm; silica volume 20 cm3), elution was carried out with a chloroform/methanol/aqueous ammonia (12/3/1 by volume) mixture. Fractions 1 to 3 were combined and concentrated under the above conditions. A product was obtained, which product was dried in an oven to constant weight under reduced pressure (10 Pa) at a temperature in the region of 40° C. 0.179 g of (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin4-yl)propyl]-1-[2-(2-thienylthio)-ethyl]piperidine-3-acetic acid was obtained in the form of a white foam which was a mixture of two diastereoisomers.

reactant | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-acetate dihydrochloride | 0.22 g | Cl.Cl.OC(CC[C@H]1[C@H](CN(CC1)CCSC=1SC=CC1)CC(=O)OC)C1=CC=NC2=CC=C(C=C12)OC
reactant | sodium hydroxide | 5N, 0.683 cm3 | [OH-].[Na+]
solvent | dioxane | 5 cm3 | O1CCOCC1 | C4H8O2
product | (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin4-yl)propyl]-1-[2-(2-thienylthio)-ethyl]piperidine-3-acetic acid | 0.179 g | OC(CC[C@H]1[C@H](CN(CC1)CCSC=1SC=CC1)CC(=O)O)C1=CC=NC2=CC=C(C=C12)OC | C26H32N2O4S2
